US06958192B2
Into a flame dried 2 L three neck round bottomed flask equipped with a mechanical stirrer, nitrogen gas inlet, pressure equalizing addition funnel, and drying tube were charged p-benzoquinone (30.16 g, 0.2790 mol) and toluene (750 mL). Diphenylphosphine oxide (56.42 g, 0.2790 mol) in toluene (250 mL) was added dropwise over 0.5 hour to the stirred solution at room temperature under nitrogen. The solution color changed from a dark brown to yellow with the formation of a gum. Upon further stirring, a grey solid formed. The solid was isolated, washed with toluene and then diethyl ether, and dried at 110° C. in flowing air to afford 74.0 g (85% crude yield) of an off-white solid. Recrystallization from ethanol afforded 2,5-dihydroxyphenyldiphenylphosphine oxide as a white solid (62.86 g, 73% recovery), m.p. 216-218° C.

reactant | p-benzoquinone | 0.2790 mol, 30.16 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | Diphenylphosphine oxide | 0.2790 mol, 56.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
product | 2,5-dihydroxyphenyldiphenylphosphine oxide | OC1=C(C=C(C=C1)O)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15O3P
